US07705034B2
3-Hydroxy-4-methyl-2-(naphthalen-2-yl-phenyl-methyl)-4-phenyl-cyclobut-2-enone
Using general procedure D, 2-methyl-2-phenyl-cyclobutane-1,3-dione (Lit. 1) was reacted with naphthalen-2-yl-phenyl-methanol to give the title compound as a colorless solid. MS: 389.5 ([M−H]−).

reactant | 2-methyl-2-phenyl-cyclobutane-1,3-dione | CC1(C(CC1=O)=O)C1=CC=CC=C1 | C11H10O2
reactant | naphthalen-2-yl-phenyl-methanol | C1=C(C=CC2=CC=CC=C12)C(O)C1=CC=CC=C1 | C17H14O
product | 3-Hydroxy-4-methyl-2-(naphthalen-2-yl-phenyl-methyl)-4-phenyl-cyclobut-2-enone | OC1=C(C(C1(C1=CC=CC=C1)C)=O)C(C1=CC=CC=C1)C1=CC2=CC=CC=C2C=C1 | C28H22O2
